Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Exertional chest pain, dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___ - Coronary Artery Bypass Grafting x 4
 
History of Present Illness:
Mr. ___ is a ___ year old man with a history of hypertension 
and hyperlipidemia. Over the last several months he has noted 
episodes of chest pain and dyspnea on exertion. He denied 
associated symptoms of nausea or diaphoresis. The discomfort is 
located in the mid sternum and do not radiate. The sypmtoms are 
relieved with rest. He was referred to the emergency room after 
positive stress test and underwent cardiac catheterization which
revealed coronary artery disease. He was referred to Dr. ___ 
___ surgical consultation.

He presented today for surgery. He denied changes in his medical 
history since his catheterization. He continues to have episodes 
of chest pain and dyspnea on exertion. He has not taken 
nitroglycerin. His symptoms are relieved after 5 minutes of 
rest. He denied syncope, dizziness, lightheadedness, 
palpitation,
orthpnea, paroxysmal nocturnal dyspnea, or lower extremity 
edema.
 
Past Medical History:
Coronary Artery Disease
Hyperlipidemia
Hypertension 
Remote MVC s/p facial fracture 
Prediabetes 
Probable sleep apnea has not done sleep study 

 
Social History:
___
Family History:
Family History:  Brother MI ___ deceased 
Father MI first at ___ then ___ one at age ___ deceased 

 
Physical Exam:
HR: 65  BP: 165/65  RR: 17  O2 Sat: 99% RA
Height: 67"     Weight: 96.6 kg 

General: WDWN man, no acute distress 
Skin: Warm, dry, intact
HEENT: NCAT, PERRLA, EOMI, OP benign
Neck:  Supple, full ROM
Chest: Clear to anterior exam
Heart: Regular rate and rhythm, no murmur
Abdomen: Protruberant, normal BS, non-tender 
Extremities: Warm, well-perfused, no edema
Varicosities: None 
Neuro: Grossly intact
Pulses:
Femoral      Right: +2               Left: +2
DP           Right: +1               Left: +1
___           Right: +1               Left: +1
Radial       Right: radial art line  Left: +2

Carotid Bruit: no bruit 

 
Pertinent Results:
Cardiac Catheterization ___ at ___ 
right dominant 
LMCA mild irreg 
LAD calcified proximal 70-80%, mid ___, D1 origin 60%, D2 
diffuse 80-90%
Lcx OM1 50-60% before distal bifurcation 
RCA severely calcified with diffuse 80-90% in ___ to mid 

Echocardiogram ___ at ___
LEFT ATRIUM: Moderately increased LA volume index. 
RIGHT ATRIUM/INTERATRIAL SEPTUM: Moderately dilated RA. 
LEFT VENTRICLE: Mild symmetric LVH. Normal LV cavity size. 
Suboptimal technical quality, a focal LV wall motion abnormality 
cannot be fully excluded. Overall normal LVEF (>55%). TDI E/e' < 
8, suggesting normal PCWP (<12mmHg). No resting LVOT gradient. 
RIGHT VENTRICLE: RV not well seen. 
AORTA: Normal aortic diameter at the sinus level. Normal 
ascending aorta diameter. No 2D or Doppler evidence of distal 
arch coarctation. 
AORTIC VALVE: Mildly thickened aortic valve leaflets (3). No AS. 
No AR. 
MITRAL VALVE: Mildly thickened mitral valve leaflets. Mild 
mitral annular calcification. No MS. ___ MR. ___ 
(>250ms) transmitral E-wave decel time. 
TRICUSPID VALVE: Tricuspid valve not well visualized. 
Indeterminate PA systolic pressure. 
PULMONIC VALVE/PULMONARY ARTERY: Normal pulmonic valve leaflet. 
No PS. Physiologic PR. 
PERICARDIUM: There is an anterior space which most likely 
represents a fat pad, though a loculated anterior pericardial 
effusion cannot be excluded. 

Conclusions  
The left atrial volume index is moderately increased. The right 
atrium is moderately dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. Due to suboptimal technical quality, a focal wall motion 
abnormality cannot be fully excluded. Overall left ventricular 
systolic function is normal (LVEF>55%). The RV is not well seen, 
but overall function appears grossly normal. The aortic valve 
leaflets (3) are mildly thickened but aortic stenosis is not
present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Trivial mitral regurgitation is 
seen. The pulmonary artery systolic pressure could not be 
determined. There is an anterior space which most likely 
represents a prominent fat pad. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with preserved global biventricular 
systolic function. No clinically significant aortic or mitral 
valve disease is detected. Biatrial enlargement. The pulmonary 
artery systolic pressure could not be determined due to 
insufficient tricuspid regurgitation.

___ 04:43AM BLOOD WBC-7.2 RBC-3.40* Hgb-10.9* Hct-32.1* 
MCV-94 MCH-32.1* MCHC-34.0 RDW-13.7 Plt ___
___ 11:56AM BLOOD ___ PTT-30.7 ___
___ 03:53AM BLOOD Glucose-121* UreaN-28* Creat-1.0 Na-143 
K-4.2 Cl-106 HCO3-31 AnGap-10

___ ___ M  ___  ___ 
 
Radiology Report CHEST (PA & LAT) Study Date of ___ 3:55 
___ 
 
  
___ FA___ ___ 3:55 ___ 
CHEST (PA & LAT)   Clip # ___   
Reason: post-op baseline  
 
Final Report 
EXAMINATION:  CHEST (PA AND LAT)CHEST (PA AND LAT)i 
  
INDICATION:  ___ year old man s/p CABG  // post-op baseline 
  
COMPARISON:  Chest radiographs ___ through ___ 
  
IMPRESSION:  
  
Lung volumes have improved, with only and moderate residual 
bibasilar 
atelectasis. Pulmonary vasculature is no longer engorged. 
Pleural effusions 
are minimal. Postoperative cardiomediastinal widening has nearly 
resolved.  No 
pneumothorax. 
  
 

 
Brief Hospital Course:
He was admitted on ___ and was taken to the operating 
room.  He underwent coronary artery bypass grafting x 4. Please 
see operative note for full details.  He tolerated the procedure 
well and was transferred to the CVICU in stable condition for 
recovery and invasive monitoring. 
 
He weaned from sedation, awoke neurologically intact and was 
extubated on POD 1.  He was weaned from inotropic and 
vasopressor support. Beta blocker was initiated and he was 
diuresed toward his preoperative weight. He remained 
hemodynamically stable and was transferred to the telemetry 
floor for further recovery. He was evaluated by the physical 
therapy service for assistance with strength and mobility. By 
the time of discharge on POD #4 he was ambulating freely, the 
wound was healing, and pain was controlled with oral analgesics. 
He was discharged to home in good condition with appropriate 
follow up instructions.
 
Medications on Admission:
Amlodipine 5 mg tablet once a day
Aspirin 81 mg tablet once a day
Enalapril maleate 20 mg tablet once a day
Hydrochlorothiazide 12.5 mg capsule once a day
Pravastatin 40 mg tablet once a day

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
2. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
3. Pravastatin 40 mg PO DAILY 
RX *pravastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
5. Furosemide 20 mg PO DAILY Duration: 7 Days 
RX *furosemide 20 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0
6. Metoprolol Tartrate 25 mg PO BID 
RX *metoprolol tartrate 25 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
7. OxycoDONE (Immediate Release)  5 mg PO Q3H:PRN pain 
RX *oxycodone 5 mg ___ capsule(s) by mouth every six (6) hours 
Disp #*60 Capsule Refills:*0
8. Potassium Chloride 20 mEq PO Q12H Duration: 7 Days 
RX *potassium chloride 20 mEq 1 tablet(s) by mouth once a day 
Disp #*7 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Coronary Artery Disease
Hyperlipidemia
Hypertension 
Remote MVC s/p facial fracture 
Prediabetes 
Probable sleep apnea has not done sleep study 

 
Discharge Condition:
Alert and oriented x3 nonfocal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage

 
Discharge Instructions:
1. Please shower daily including washing incisions gently with 
mild soap, no baths or swimming, and look at your incisions
2). Please NO lotions, cream, powder, or ointments to incisions
3). Each morning you should weigh yourself and then in the 
evening take your temperature, these should be written down on 
the chart
4). No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive
5). No lifting more than 10 pounds for 10 weeks

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

 
Followup Instructions:
___